US05275756
Synthesis of (R)-5-Hexyloxy-2-[4-(3-fluoroheptyloxy)phenyl]pyrimidine (Example 24)
The titled compound was synthesized from (R)-3-fluoroheptyl methanesulfonate, derived from methyl (S)-3-hydroxyheptanoate (98.0% ee, [α]D20 =-8.71°), and 5-n-hexyloxy-2-(4-hydroxy-3-fluorophenyl)pyrimidine.

reactant | (R)-3-fluoroheptyl methanesulfonate | CS(=O)(=O)OCC[C@@H](CCCC)F | C8H17FO3S
reactant | methyl (S)-3-hydroxyheptanoate | O[C@H](CC(=O)OC)CCCC | C8H16O3
reactant | 5-n-hexyloxy-2-(4-hydroxy-3-fluorophenyl)pyrimidine | C(CCCCC)OC=1C=NC(=NC1)C1=CC(=C(C=C1)O)F | C16H19FN2O2
product | (R)-5-Hexyloxy-2-[4-(3-fluoroheptyloxy)phenyl]pyrimidine | Yield: 48.5% | C(CCCCC)OC=1C=NC(=NC1)C1=CC=C(C=C1)OCC[C@@H](CCCC)F | C23H33FN2O2
